US08426437B2
3.9 mL (13 mmol) of titanium isopropoxide and 2 g (10 mmol) of (tert-butoxycarbonyl-isopropyl-amino)-acetaldehyde (prepared according to the method described by Kato, Shiro et al., J. Chem. Soc. Perkin Trans. 1, 1997, 21, 3219-26) are added to a solution of 1.65 g (30 mmol) of propargylamine in 50 mL of anhydrous tetrahydrofuran. The solution is stirred for 5 hours at room temperature then 5 mL of anhydrous methanol and 317 mg (8.4 mmol) of sodium borohydride are added. Stirring is continued for a further 2 hours then 2 mL of water is added. The reaction mixture is filtered then the solvents are evaporated. The residue is purified by chromatography on silica (eluent dichloromethane/methanol 98/2) to give 1.2 g (50%) of N-tert-butoxycarbonyl-N-isopropyl-N′-prop-2-ynyl-ethane-1,2-diamine in the form of a colourless oil.

reactant | (tert-butoxycarbonyl-isopropyl-amino)-acetaldehyde | 10 mmol, 2 g | C(C)(C)(C)OC(=O)N(C(C)C)CC=O | C10H19NO3
reactant | propargylamine | 30 mmol, 1.65 g | C(C#C)N | C3H5N
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium borohydride | 8.4 mmol, 317 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | titanium isopropoxide | 13 mmol, 3.9 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | 2 mL | O | H2O
product | N-tert-butoxycarbonyl-N-isopropyl-N′-prop-2-ynyl-ethane-1,2-diamine | 1.2 g, 50% | C(C)(C)(C)OC(=O)N(CCNCC#C)C(C)C | C13H24N2O2
